US09315521B2
(2,4-dimethylpyridin-3-yl)methanol was dissolved in dichloromethane (100 mL). Tribromophosphane (1.5 mL, 16 mmol) was added slowly. After 2 hours, the mixture was evaporated to dryness. The crude solid was dissolved in cold ethanol (100 mL), and 6-methyl-2-sulfanylpyrimidin-4-ol (1.13 g, 8.0 mmol) and triethylamine (4.5 mL, 32 mmol) were added. The resulting mixture was stirred at room temperature for 3 hours. The solvent was evaporated, and the crude solid was washed with THF (200 mL). After evaporation of solvent, the crude was purified by CombiFlash (0-6% MeOH in DCM) to provide 2-{[(2,4-dimethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (2.5 g, 64% yield); 1H NMR (500 MHz, DMSO-d6): δ 2.23 (s, 3H), 2.68 (s, 3H), 2.84 (s, 3H), 4.62 (s, 2H), 6.05 (br, 1H), 7.71 (s, 1H), 8.62 (s, 1H); M+232.

reactant | (2,4-dimethylpyridin-3-yl)methanol | CC1=NC=CC(=C1CO)C | C8H11NO
reactant | Tribromophosphane | 16 mmol, 1.5 mL | BrP(Br)Br | Br3P
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 8.0 mmol, 1.13 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 32 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-{[(2,4-dimethylpyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 2.5 g, 64% yield | CC1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C)C | C13H15N3OS
